US07964623B2
(3R*,4S*)-7-hydroxymethyl-2,2,9-trimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol
To a solution of (3R*,4R*)-(3,4-epoxy-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-7-yl)-methyl acetate (403 mg, 1.29 mmol) in 1,4-dioxane (1 mL), lithium perchlorate (137 mg, 1.29 mmol) and phenylethylamine (0.195 mL, 1.55 mmol) were added at room temperature and the resulting mixture was stirred at 70° C. for 1.5 hour. Upon the completion of the reaction, sodium hydrogencarbonate aqueous solution was added to the reaction solution, and it was extracted with ethyl acetate. The resulting organic phase was washed with sodium hydrogencarbonate aqueous solution and then with sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by medium pressure column chromatography (hexane/ethyl acetate=1/1) and the aimed product was obtained (yield: 32%).

reactant | (3R*,4R*)-(3,4-epoxy-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-7-yl)-methyl acetate | 1.29 mmol, 403 mg | C(C)(=O)OCC1=NC=2C=C3C(=CC2C(=C1)C)OC([C@H]1[C@@H]3O1)(C)C | C18H19NO4
reactant | lithium perchlorate | 1.29 mmol, 137 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | phenylethylamine | 1.55 mmol, 0.195 mL | C1(=CC=CC=C1)CCN | C8H11N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (3R*,4S*)-7-hydroxymethyl-2,2,9-trimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol | yield: 32% | OCC1=NC=2C=C3C(=CC2C(=C1)C)OC([C@@H]([C@H]3NCCC3=CC=CC=C3)O)(C)C | C24H28N2O3
